US04179277
25 g (0.1 mol) of 4,5-dichloro-imidazole-2-carboxylic acid N-formyl-isopropylamide were stirred with 200 ml of concentrated sulphuric acid for about 15 minutes at 50°-70° C. After cooling, the mixture was poured onto ice and the product was filtered off, washed with water until neutral and dried. In this way, 16 g (72% of theory) of 4,5-dichloro-imidazole-2-carboxylic acid isopropylamide with a melting point of 150° C. were obtained.

reactant | 4,5-dichloro-imidazole-2-carboxylic acid N-formyl-isopropylamide | 0.1 mol, 25 g | C(=O)N(C(=O)C=1NC(=C(N1)Cl)Cl)C(C)C | C8H9Cl2N3O2
solvent | sulphuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
product | 4,5-dichloro-imidazole-2-carboxylic acid isopropylamide | 16 g, 72% | C(C)(C)NC(=O)C=1NC(=C(N1)Cl)Cl | C7H9Cl2N3O
